US09447078B2
CH3CN addition to 2-(cyclohexylmethoxy)pyrimidine-4-carbaldehyde following the method described in Example 6 gives 3-(2-(cyclohexylmethoxy)pyrimidin-4-yl)-3-hydroxypropanenitrile.

reactant | 2-(cyclohexylmethoxy)pyrimidine-4-carbaldehyde | C1(CCCCC1)COC1=NC=CC(=N1)C=O | C12H16N2O2
reactant | CH3CN | CC#N | C2H3N
product | 3-(2-(cyclohexylmethoxy)pyrimidin-4-yl)-3-hydroxypropanenitrile | C1(CCCCC1)COC1=NC=CC(=N1)C(CC#N)O | C14H19N3O2
